US04283397
1-Carboethoxymethyl-4-chloropyridinium bromide
A solution of 1.1 g. (10 mmoles; 0.95 ml.) of 4-chloropyridine in 10 g. (60 mmoles) of ethyl bromoacetate is kept at 5° for 48 hours. The mixture is diluted with 15 ml. of ether, filtered and the solid is washed well with ether.

reactant | 4-chloropyridine | 10 mmoles, 0.95 ml | ClC1=CC=NC=C1 | C5H4ClN
reactant | ethyl bromoacetate | 60 mmoles | BrCC(=O)OCC | C4H7BrO2
product | 1-Carboethoxymethyl-4-chloropyridinium bromide | [Br-].C(=O)(OCC)C[N+]1=CC=C(C=C1)Cl | InChI=1S/C9H11ClNO2.BrH/c1-2-13-9(12)7-11-5-3-8(10)4-6-11;/h3-6H,2,7H2,1H3;1H/q+1;/p-1
